US08865726B2
A solution of (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (2.50 g, 11.5 mmol), HOBT-H2O (1.76 g, 11.5 mmol) and DIEA (6.01 mL, 34.5 mmol) in THF (50 mL) was cooled to 0° C. HBTU (3.23 g, 13.8 mmol) was added and the mixture stirred at 0° C. for 30 minutes prior to addition of 4-methoxy-benzylamine (2.25 mL, 17.3 mmol). The reaction mixture was allowed to warm slowly to ambient temperature while stirring over 48 hours. The reaction mixture was poured into 10% HCl and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated. Purification of the crude material by column chromatography, eluting with 1.5-3% MeOH/dichloromethane afforded (S)-tert-butyl 1-(4-methoxybenzylamino)-3-methyl-1-oxobutan-2-ylcarbamate as a light yellow solid, 2.70 g (70%).

reactant | (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid | 11.5 mmol, 2.50 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | HOBT H2O | 11.5 mmol, 1.76 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | DIEA | 34.5 mmol, 6.01 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 13.8 mmol, 3.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methoxy-benzylamine | 17.3 mmol, 2.25 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | HCl | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(4-methoxybenzylamino)-3-methyl-1-oxobutan-2-ylcarbamate | COC1=CC=C(CNC([C@H](C(C)C)NC(OC(C)(C)C)=O)=O)C=C1 | C18H28N2O4
